US05034417
A mixture of 3'-chloro-4'-nitroacetophenone (2.4 g), potassium 2,4-difluorothiophenoxide (2.7 g), and N,Ndimethylformamide (5 ml) in xylene (50 ml) was stirred for 8 hours at room temperature. The mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The residual solid was recrystallized from ethanol to give prisms of 3'-(2,4-difluorophenylthio)-4'-nitroacetophenone (2.3 g).

reactant | 3'-chloro-4'-nitroacetophenone | 2.4 g | ClC=1C=C(C=CC1[N+](=O)[O-])C(C)=O | C8H6ClNO3
reactant | potassium 2,4-difluorothiophenoxide | 2.7 g | FC1=C([S-])C=CC(=C1)F.[K+]
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3'-(2,4-difluorophenylthio)-4'-nitroacetophenone | 2.3 g | FC1=C(C=CC(=C1)F)SC=1C=C(C=CC1[N+](=O)[O-])C(C)=O | C14H9F2NO3S
